US05571832
1-(tertButoxycarbonyl)-2-piperidinecarboxylic acid
A mixture of pipecolinic acid (48.43 g, 375 mmol), di-tertbutyl dicarbonate (98.2 g, 450 mmol, 1.2 eq) and NaHCO3 (126 g, 1500 mmol, 4.0 eq) in water (1000 mL) was stirred overnight at rt. Crushed ice (200 g) was added to the reaction mixture which was then treated dropwise with a solution of 120 mL of 12M HCl made up to 500 mL with water. The pH was adjusted to ca. 3.5 by addition of a further amount of HCl. The solution was extracted with EtOAc (2×500 mL) and the combined organic extract was back washed with water (2×500 mL) and evaporated in vacuo to give the product (48.7 g, 57%) as a beige crystalline solid: mp 123°-124° C.; 1H-NMR (CDCl3) ∂4.93 (58%), 4.78 (42%) (m, 1H), 3.96 (m, 1H), 2.96 (m, 1H), 2.22 (m, 1H), 1.68 (complex m, 3H), 1.23-1.50 (m, 2H), 1.46 (s, 9H); CIMS (MH+ calcd for C11H19NO4): 230. Found (MH+): 230; Anal. (calcd for C11H19NO4): C,H,N.

reactant | pipecolinic acid | 375 mmol, 48.43 g | N1C(C(=O)O)CCCC1 | C6H11NO2
reactant | di-tertbutyl dicarbonate | 450 mmol, 98.2 g, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 1500 mmol, 126 g, 4.0 eq | C(=O)(O)[O-].[Na+]
reactant | HCl | 12M, 120 mL | Cl | ClH
solvent | water | 1000 mL | O | H2O
product | 1-(tertButoxycarbonyl)-2-piperidinecarboxylic acid | 48.7 g, 57% | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
